US04003926
Preparation of lithium 2-(2,4 -difluorophenylaminocarbonyl)-1-cyclohexene-1-carboxylate
Six parts of trimethylammonium 2-(2,4-difluorophenylaminocarbonyl)-1-cyclohexene-1-carboxylate were dissolved in 10 parts of 2N lithium hydroxide solution. The solution was evaporated under reduced pressure of 20 mm Hg. at 50° C to 4.5 parts of lithium 2-(2,4-difluorophenylaminocarbonyl)-1-cyclohexene-1-carboxylate as a white solid melting 210°-225° C.

reactant | trimethylammonium 2-(2,4-difluorophenylaminocarbonyl)-1-cyclohexene-1-carboxylate | FC1=C(C=CC(=C1)F)NC(=O)C1=C(CCCC1)C(=O)[O-].C[NH+](C)C
reactant | lithium hydroxide | 2N | [OH-].[Li+]
product | lithium 2-(2,4 -difluorophenylaminocarbonyl)-1-cyclohexene-1-carboxylate | FC1=C(C=CC(=C1)F)NC(=O)C1=C(CCCC1)C(=O)[O-].[Li+] | InChI=1S/C14H13F2NO3.Li/c15-8-5-6-12(11(16)7-8)17-13(18)9-3-1-2-4-10(9)14(19)20;/h5-7H,1-4H2,(H,17,18)(H,19,20);/q;+1/p-1
